US08314097B2
Crude 5-(4-cyano-2-methoxyphenyl)-6,7-dihydro-5H-pyrrolo[1,2-c]imidazole-5-carboxylic acid (0.168 g, 0.59 mmol) is suspended in CH2Cl2 (3 mL) and cooled to 0° C. To it is added DMF (0.2 mL) followed by the addition of a CH2Cl2 solution of oxalyl chloride (0.6 mL, 2.0 M). After 2 h, 4-fluoro-N-methylbenzylamine (0.23 mL, 1.78 mmol) is added. The reaction is stirred for another 2 h, evaporated to dryness, and partitioned between EtOAc and saturated aqueous NaHCO3. The organic phase is dried (Na2SO4), filtered, and concentrated. The crude residue is purified via flash column chromatography (2-5% MeOH/CH2Cl2) to give 5-(4-cyano-2-methoxyphenyl)-6,7-dihydro-5H-pyrrolo[1,2-c]imidazole-5-carboxylic acid (4-fluorobenzyl)methylamide as a yellow solid. MS (ESI) m/z 405.2 (M+H); 1H NMR (400 MHz, CDCl3) δ ppm 2.60 (s, 3 H), 2.76-2.88 (m, 2 H), 2.95-3.04 (m, 1 H), 3.57-3.69 (m, 1 H), 3.74 (s, 3 H), 4.43 (d, J=14.4 Hz, 1 H), 4.58-4.70 (m, 1 H), 6.79 (s, 1 H), 6.86-6.94 (m, 1 H), 6.96-7.05 (m, 2 H), 7.10 (s, 1 H), 7.19-7.25 (m, 3 H), 7.55 (s, 1 H). Resolution of the (R) and (S) enantiomers of the title compound is achieved by chiral HPLC using ChiralPak AD column with a 6:4 EtOH/hexane mobile phase to give enantiomer A (tr=30.2 min) and enantiomer B (tr=36.0 min).

reactant | 5-(4-cyano-2-methoxyphenyl)-6,7-dihydro-5H-pyrrolo[1,2-c]imidazole-5-carboxylic acid | 0.59 mmol, 0.168 g | C(#N)C1=CC(=C(C=C1)C1(CCC=2N1C=NC2)C(=O)O)OC | C15H13N3O3
reactant | DMF | 0.2 mL | CN(C)C=O | C3H7NO
reactant | oxalyl chloride | 2.0 M, 0.6 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-fluoro-N-methylbenzylamine | 1.78 mmol, 0.23 mL | FC1=CC=C(CNC)C=C1 | C8H10FN
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | 5-(4-cyano-2-methoxyphenyl)-6,7-dihydro-5H-pyrrolo[1,2-c]imidazole-5-carboxylic acid (4-fluorobenzyl)methylamide | FC1=CC=C(CCNC(=O)C2(CCC=3N2C=NC3)C3=C(C=C(C=C3)C#N)OC)C=C1 | C23H21FN4O2
